US04269977
A solution of 0.955 g of 7β-phenylacetyl-amino-ceph-3-em-4-carboxylic acid in 60 ml of absolute methylene chloride is treated with 0.720 g of trimethylchlorosilane and 0.474 g of absolute pyridine. The mixture is stirred for 60 minutes at room temperature and cooled to -20° C., and a solution of 3.20 g of absolute pyridine in 30 ml of absolute methylene chloride and 23.4 ml of an 8% strength solution of phosphorus pentachloride in absolute methylene chloride are then added successively. The whole is stirred for 60 minutes at -10° C. to -12° C. and again cooled to about -20° C., and 15 ml of absolute methanol are then run in. The mixture is stirred for 25 minutes at -10° C. and then for 35 minutes at room temperature, 15 ml of water are added, the pH-value of the reaction mixture is raised from 1.8 to 2.2 by dropwise addition of triethylamine and the mixture is stirred for 20 minutes at room temperature. The pH-value is raised to 3.8 by renewed addition of triethylamine and the two-phase mixture is stirred for 90 minutes whilst cooling in an ice bath and is then filtered. The filter residue is washed with methanol, methylene chloride and diethyl ether and is dried in a vacuum desiccator. 7β-Amino-ceph-3-em-4-carboxylic acid is thus obtained in the amorphous form; the product is used further without purification.

reactant | 7β-phenylacetyl-amino-ceph-3-em-4-carboxylic acid | 0.955 g | C1(=CC=CC=C1)CC(=O)[C@H]1[C@@H]2N(C(=CC(S2)N)C(=O)O)C1=O | C15H14N2O4S
reactant | trimethylchlorosilane | 0.720 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | pyridine | 0.474 g | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 3.20 g | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | 15 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | 7β-Amino-ceph-3-em-4-carboxylic acid | N[C@H]1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
